Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.74121102387
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.29405297165
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.76079618897
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1],5.83748485418
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-2.75061914751
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])[H:11],2.17680134879
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-7.72629342
[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.91551567942
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.09203416581
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([H:17])[H:18].[H:1][C:2]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])=[C:15][H:16],4.47898438014
[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.03973511147
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.95555675436
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.39112964551
[H:1][C:2]/[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[H:1][C:2],6.277814595830001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:7][H:8].[H:6],1.95743956127
[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:8]([O:7][C:4]([H:5])[H:6])([H:9])[C:10]([H:11])([H:12])[H:13],0.25682977847
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],0.883023234971
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-3.64276764042
[C:1]#[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.516665635290001
[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],7.06948650038
[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3],0.160401473619
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-1.75232112441
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.60985045375
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],0.733903748468
[O:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.60267735923
[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-5.74087103829
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4][C:11]([H:12])([H:13])[H:14],7.743088041649999
[H:1][O:2][C@:3]1([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:13]([C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15],2.46115592366
